US08138187B2
(±)-3-[2-(4-Dimethylamino-4-phenylcyclohex-1-enyl)-1H-indol-3-yl]propan-1-ol (500 mg, 1.335 mmol) was dissolved in HBr/glacial acetic acid (33% HBr, 10 ml). Sn powder (1.57 g, 13.35 mmol) was then added to the mixture in portions at RT in the course of 2 h. When the addition had ended, the reaction mixture was stirred at RT for a further 16 h. For working up, the mixture was diluted with EtOH (10 ml) and concentrated to dryness on a rotary evaporator. The residue which remained was rendered basic by addition of 5 N NaOH (40 ml). The aqueous mixture obtained was extracted with methylene chloride (4×20 ml). The combined organic phases were dried over Na2SO4 and then concentrated. It was possible for the crude product obtained to be purified by column chromatography [silica gel 60 (50 g); MeOH (600 ml)]. 3-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl]propan-1-ol (non-polar diastereomer) was obtained in a yield of 160 mg (32%) as a white solid. The more polar diastereomer was obtained in a yield of 130 mg (26%) as a white solid.

reactant | (±)-3-[2-(4-Dimethylamino-4-phenylcyclohex-1-enyl)-1H-indol-3-yl]propan-1-ol | 1.335 mmol, 500 mg | CN(C1(CC=C(CC1)C=1NC2=CC=CC=C2C1CCCO)C1=CC=CC=C1)C | C25H30N2O
solvent | HBr | 10 ml | Br | BrH
solvent | EtOH | 10 ml | CCO | C2H6O
product | 3-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl]propan-1-ol | CN(C1(CCC(CC1)C=1NC2=CC=CC=C2C1CCCO)C1=CC=CC=C1)C | C25H32N2O
